US07276606B2
[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-naphthalen-1-yl-methanone was prepared from phenanthridine, 1-naphthoyl chloride, and indole according to GP 2. Yield, 2%. (+)-ESI-MS: m/z=451 [M+H]+, 334 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 1-naphthoyl chloride | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | [6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-naphthalen-1-yl-methanone | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(=O)C1=CC=CC2=CC=CC=C12 | C32H22N2O
